Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
N/V/D
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a history of liver 
cancer metastatic to lung, currently undergoing chemotherapy at 
___ (last tx ___. He presents with n/v/d and inability 
to tolerate PO.  

Patient was recently diagnosed with HCC in ___. He presented 
with abdominal pain and a liver mass in the setting of several 
months of fatigue; he had been caring for his ailing mother (who 
died on ___ and had been attributing his symptoms to sleep 
deprivation. He says his doctors ___ understand why he has 
HCC, since has never been a heavy drinker and has no history of 
HCV, Hep B, or IVDU. His cancer was metastatic to lung at time 
of presentation and he reports being told disease is "advanced." 
No plans for surgery/TACE. He recently started induction 
chemotherapy at ___. He is unsure of his chemo drugs, but 
___ was his second cycle. Some minor improvement in 
abdominal pain s/p chemo.  

On the evening before presentation, patient developed 
generalized abdominal pain associated with chills and sensation 
of being dehydrated. He developed worsening nausea and had ~ 4 
episodes of NBNB vomiting and 2 episodes of non-bloody diarrhea. 
He took Zofran without relief. He has also had a sore throat. No 
CP/SOB/cough. No abdominal pain in spite of missing his 
oxycodone today. He spoke to ___ fellow on call who advised ED 
presentaion. Pt meant to go to ___ but came to ___ instead. 
 
In the ED initial vitals were: 4 99.8 81 159/90 20 92%. Labs 
were significant for H/H 17.8/56.4, ALT 77, AST 90, AP 359, Phos 
1.0, lactate 1.7. CXR showed likely pulmonary nodules. Patient 
was given Zofran and 2L IVF. HE was unable to tolerate PO. 
Vitals prior to transfer were: 0 98.1 76 144/91 16 97% RA.  
On the floor, patient reports ongoing nausea. No f/c and has not 
had further diarrhea. No blood in stool or black stool. No CP or 
SOB. No abdominal pain currently.  
 
Review of Systems: As above
 
Past Medical History:
- HCC, metastatic to lung  
- Active smoking (2 PPD)  
- HTN: new since initiating chemo, on amlodipine 
 
Social History:
___
Family History:
- No family history of liver disease  
- Father had colorectal cancer and lung cancer 
 
Physical Exam:
ADMISSION:

Vitals 98.3 135/82 75 18 98  
GENERAL: Ill-appearing, cachectic, lying in bed in NAD, veins 
prominent  
HEENT: PERRL, anicteric sclera, pink conjunctiva, patent nares, 
dry MM, nontender supple neck, prominent veins due to chachexia  

CARDIAC: RRR, S1/S2, II/VI SEM heard throughout precordium, no 
r/g  
LUNG: CTAB, no wheezes, rales, rhonchi  
ABDOMEN: Liver is markedly enlarged at 20+ cm, nontender. No 
fluid wave. No r/g.  
EXTREMITIES: 1+ pitting edema to midcalf  
PULSES: 2+ ___ pulses bilaterally  
NEURO: CN II-XII intact

DISCHARGE:

Vitals: 98.3 135/88 75 18 98% RA  
General: Alert, oriented, no acute distress, cachectic  
HEENT: Sclera anicteric, MMM, leukoplakia but no oral ulcers  
Neck: supple, JVP not elevated, no LAD  
Lungs: Scattered coarse exp wheezes
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Large RUQ mass and enlarged liver, nontender, no 
ascites 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: No rashes. Port on R chest wnl 
Neuro: Grossly intact 

 
Pertinent Results:
ADMISSION LABS:

___ 09:22PM   PLT SMR-NORMAL PLT COUNT-209
___ 09:22PM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-OCCASIONAL 
STIPPLED-OCCASIONAL TEARDROP-1+
___ 09:22PM   NEUTS-70 BANDS-0 LYMPHS-16* MONOS-9 EOS-3 
BASOS-0 ATYPS-2* ___ MYELOS-0 NUC RBCS-1* OTHER-0
___ 09:22PM   WBC-5.7 RBC-7.06* HGB-17.8 HCT-56.4* MCV-80* 
MCH-25.3* MCHC-31.6 RDW-20.1*
___ 09:22PM   ALBUMIN-4.2 CALCIUM-9.6 PHOSPHATE-1.9* 
MAGNESIUM-2.0
___ 09:22PM   ALT(SGPT)-77* AST(SGOT)-90* ALK PHOS-359* TOT 
BILI-1.3
___ 09:22PM   estGFR-Using this
___ 09:22PM   GLUCOSE-79 UREA N-22* CREAT-0.8 SODIUM-136 
POTASSIUM-4.2 CHLORIDE-96 TOTAL CO2-25 ANION GAP-19
___ 09:25PM   LACTATE-1.7

DISCHARGE LABS:

___ 05:50AM BLOOD WBC-4.5 RBC-6.57* Hgb-16.6 Hct-53.0* 
MCV-81* MCH-25.3* MCHC-31.4 RDW-20.1* Plt ___
___ 05:50AM BLOOD Glucose-62* UreaN-17 Creat-0.7 Na-139 
K-3.7 Cl-101 HCO3-25 AnGap-17
___ 05:50AM BLOOD ALT-66* AST-81* LD(LDH)-341* AlkPhos-323* 
TotBili-1.1
___ 05:50AM BLOOD Albumin-3.6 Calcium-8.3* Phos-3.0 Mg-1.8

MICRO:

___ 9:22 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

IMAGING:

CXR ___: IMPRESSION:  No evidence of acute disease; however, 
suspicion for pulmonary 
nodules.  If recent cross-sectional imaging has not been 
performed to evaluate 
the chest, then chest CT evaluation would be appropriate.  No 
prior 
examinations are available at our institution. 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a recent diagnosis 
of metastatic HCC who presented on C2D6 from FOLFOX/Sorafenib 
with nausea, vomiting, and inability to tolerate PO.  

# N/V/D: Most likely secondary to recent chemotherapy. Low 
suspicion for infectious etiology such as Cdiff or 
gastroenteritis. Pt improved with IVF and home anti-emetics, 
which were continued. Tolerated a regular diet at discharge 
without N/V and improved diarrhea.

# Volume status: Presented hypovolemic in the setting of GI 
losses and poor PO intake. Improved with IVF and was euvolemic 
at discharge.
Looks essentially euvolemic now, came in hemoconcentrated (see 
below).

# Elevated Hct: Baseline recently 53, presented at 56 which 
likely represented  hemoconcentration. Per DFCI notes, 
consideration has been made for an EPO secreting tumor.

# HCC: Metastatic to lungs. C2D6 FOLFOX/sorafenib. Per pt there 
are not plans for surgery or TACE. Pain was well-controlled with 
home oxycontin.      

# HTN: Continued amlodipine 2.5 mg daily.

Transitional issues:
- Close oncology followup (arranged prior to discharge) where 
labs will be drawn and need for additional IVF will be assessed
- Followup final blood cultures
- Consider starting Bactrim for PCP prophylaxis and vitamin D 
for bone health if will be on dexamethasone long term
- Cont to work with patient on coping with difficult diagnosis

  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 0.5 mg PO Q4H:PRN nausea 
2. Ondansetron 8 mg PO Q8H:PRN nausea 
3. Omeprazole 20 mg PO BID 
4. Amlodipine 2.5 mg PO DAILY 
5. Metoclopramide 10 mg PO QIDACHS 
6. OxyCODONE SR (OxyconTIN) 40 mg PO Q12H 
7. Dexamethasone 4 mg PO Q12H 

 
Discharge Medications:
1. Amlodipine 2.5 mg PO DAILY 
2. Dexamethasone 4 mg PO Q12H 
3. Lorazepam 0.5 mg PO Q4H:PRN nausea 
4. Metoclopramide 10 mg PO QIDACHS 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. OxyCODONE SR (OxyconTIN) 40 mg PO Q12H 
7. Omeprazole 20 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Chemotherapy toxicity 

Secondary diagnosis:
Metastatic hepatocellular carcinoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___. You were admitted 
with nausea, vomiting, and diarrhea, probably related to your 
recent round of chemotherapy. Your symptoms improved with IV 
fluids and nausea medications, and you are ready for discharge. 
We have coordinated with your oncologists at ___ and 
they will see in followup on ___, ___.

For now, eating softer food such as jello, soup, and protein 
shakes ___ be easier to digest and help with your nausea and 
vomiting. 
 
Followup Instructions:
___